US04789675
In a mixture of acetic acid (15 ml) and water (2.5 ml) was dissolved methyl 5-[4-(4-fluorophenyl)-1-piperazinyl]-2-(5,6,7,8-tetrahydro-3-nitro-2-naphthyloxy)valerate (4.1 g). To the solution was added little by little iron powder (1.9 g) whil stirring. The reaction was allowed to proceed for 30 minutes, followed by stirring at 80° C. for further 15 minutes. The resultant precipitate was filtered off, and the filtrate was concentrated. To the concentrate was added water, which was neutralized with an aqueous solution of sodium carbonate, followed by extraction with chloroform (then precipitated inorganic substances were filtered off). The chloroform layer was washed with water and dried (MgSO4). The concentrate was recrystallized from chloroform--ethyl acetate to give 1.54 g (43.1%) of 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-6,7,8,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazin-3(4H)-one as crystals, m.p. 164°-165° C. This product was in good agreement with the authentic sample obtained by Method A.

reactant | methyl 5-[4-(4-fluorophenyl)-1-piperazinyl]-2-(5,6,7,8-tetrahydro-3-nitro-2-naphthyloxy)valerate | 4.1 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(C(=O)OC)OC1=CC=2CCCCC2C=C1[N+](=O)[O-] | C26H32FN3O5
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 2.5 ml | O | H2O
catalyst | iron | 1.9 g | [Fe] | Fe
product | 2-{3-[4-(4-fluorophenyl)-1-piperazinyl]propyl}-6,7,8,9-tetrahydro-2H-naphtho[2,3-b][1,4]oxazin-3(4H)-one | 1.54 g, 43.1% | FC1=CC=C(C=C1)N1CCN(CC1)CCCC1C(NC2=C(O1)C=C1CCCCC1=C2)=O | C25H30FN3O2
